US07501425B1
3-(3,5-Dimethoxy-phenyl)-7-methylsulfanyl-3,4-dihydro-pyrimido [4,5-d]pyrimidin-2-ylamine
Into a solution of 25.0 g (81.6 mmol) of 5-[(3,5-dimethoxy-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-ylamine in 125 mL of dry dimethylformamide cooled to 5° C., was added a solution of 10.1 g (95.5 mmol) of cyanogen bromide in 25 mL of dry dimethylformamide portionwise. After the addition of the cyanogen bromide solution the ice bath was removed, and the reaction was allowed to warm to room temperature over 30 minutes. The reaction was warmed to 80° C. for 4 hours, then added to 500 mL of 1N NaOH. The aqueous suspension was extracted with dichloromethane (7×150 mL). The dichloromethane layers were combined and concentrated in vacuo. The residue was dissolved in dichloromethane, extracted three times with a saturated solution of sodium chloride, dried over magnesium sulfate, and concentrated in vacuo. The residue was dissolved in tetrahydrofuran, added silica gel, and concentrated in vacuo. The residue was chromatographed down silica gel, eluting first with ethyl acetate, then switching to ethyl acetate/ethanol (9:1 v/v), giving product which was slightly impure. This product was rechromatographed down silica gel, eluting with first chloroform, then switching to chloroform/methanol (9:0.5 v/v), to give 7.34 g (24%) of the title compound: mp 198-204° C.

reactant | 5-[(3,5-dimethoxy-phenylamino)-methyl]-2-methylsulfanyl-pyrimidin-4-ylamine | 81.6 mmol, 25.0 g | COC=1C=C(C=C(C1)OC)NCC=1C(=NC(=NC1)SC)N | C14H18N4O2S
reactant | cyanogen bromide | 95.5 mmol, 10.1 g | N#CBr | CBrN
solvent | dimethylformamide | 125 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 3-(3,5-Dimethoxy-phenyl)-7-methylsulfanyl-3,4-dihydro-pyrimido [4,5-d]pyrimidin-2-ylamine | 7.34 g, 24% | COC=1C=C(C=C(C1)OC)N1C(=NC2=NC(=NC=C2C1)SC)N | C15H17N5O2S
